US06121264
With ice-cooling, 1-(4-aminobutyl)-7-(1H-imidazol-1-yl)-2,3(1H,4H)-quinoxalinedione dihydrochloride (1.00 g) was dissolved in concentrated sulfuric acid (10 ml) to which was subsequently added dropwise fuming nitric acid (94 μl). The reaction solution was gradually warmed up to room temperature and stirred overnight. Ice water was added to the reaction solution, followed by neutralization using 15% sodium hydroxide aqueous solution. The thus precipitated solid was collected by filtration and dried to give 1-(4-aminobutyl)-7-(1H-imidazol-1-yl)-6-nitro-2,3(1H,4H)-quinoxalinedione (0.40 g).

reactant | 1-(4-aminobutyl)-7-(1H-imidazol-1-yl)-2,3(1H,4H)-quinoxalinedione dihydrochloride | 1.00 g | Cl.Cl.NCCCCN1C(C(NC2=CC=C(C=C12)N1C=NC=C1)=O)=O
reactant | nitric acid | 94 μl | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(4-aminobutyl)-7-(1H-imidazol-1-yl)-6-nitro-2,3(1H,4H)-quinoxalinedione | 0.40 g | NCCCCN1C(C(NC2=CC(=C(C=C12)N1C=NC=C1)[N+](=O)[O-])=O)=O | C15H16N6O4
